US08383838B2
2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid methyl ester (2.4 mmol) was dissolved in methanol. 5 ml of 2 mol/l sodiumhydroxide was added and the solution was stirred for two hours. The solvent was removed in vacuo. 2 mol/l hydrochloric acid were added and the solvent again removed in vacuo. The residue was extracted by diethylether. Evaporation of the solvent yielded 0.5 g of 2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid. LC-MS: 1.8 min, 191.2 (MH+)

reactant | 2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid methyl ester | 2.4 mmol | COC(=O)C1=CC2=C(OCC1)C=CC=C2 | C12H12O3
reactant | sodiumhydroxide | 2 mol/l, 5 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2,3-Dihydro-benzo[b]oxepine-4-carboxylic acid | 0.5 g | O1C2=C(C=C(CC1)C(=O)O)C=CC=C2 | C11H10O3
